US07906553B2
Synthesis of 4-p-tolyl-2-(3,4,5-trimethoxybenzamido)thiophene-3-carboxylic acid
Ethyl cyanoacetate (5 mmol), and 1-(3,4,5-trimethoxyphenyl)ethanone (5 mmol) are dissolved in toluene (5 mL). Morpholine (5 mmol) is added followed by activated molecular sieves (4A). The reaction is stirred at 80° C. for 12 hours. The reaction is cooled to room temperature, filtered and concentrated. The residue is taken up in toluene (5 mL), ethanol (5 mL) and sulfur is added (0.16 g; 5 mmol). The reaction mixture is heated with mixing at 70° C. for 12 hours. The reaction is cooled to room temperature and the solvents are evaporated. The residue is purified by HPLC to provide ethyl 2-amino-4-(3,4,5-trimethoxyphenyl)thiophene-3-carboxylate. Ethyl 2-amino-4-(3,4,5-trimethoxyphenyl)thiophene-3-carboxylate (5 mmol) is treated with 4-methylbenzoyl chloride (5 mmol) in THF (10 mL). The reaction is stirred at room temperature for 10 hours. The reaction is diluted with 1N NaOH (10 mL) and ethyl acetate (15 mL). The layers are separated, the organic layer is dried with anhydrous sodium sulfate, filtered and concentrated. The residue is purified by flash chromatography to provide ethyl 4-p-tolyl-2-(3,4,5-trimethoxybenzamido)thiophene-3-carboxylate. Ethyl 4-p-tolyl-2-(3,4,5-trimethoxybenzamido)thiophene-3-carboxylate is hydrolyzed under a variety of conditions (e.g. LiOH, water; LiOH, H2O2, water; or NaOH, water) to provide the title compound

reactant | Ethyl 4-p-tolyl-2-(3,4,5-trimethoxybenzamido)thiophene-3-carboxylate | C1(=CC=C(C=C1)C=1C(=C(SC1)NC(C1=CC(=C(C(=C1)OC)OC)OC)=O)C(=O)OCC)C | C24H25NO6S
reactant | LiOH | [Li+].[OH-]
reactant | H2O2 | OO | H2O2
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
product | 4-p-tolyl-2-(3,4,5-trimethoxybenzamido)thiophene-3-carboxylic acid | C1(=CC=C(C=C1)C=1C(=C(SC1)NC(C1=CC(=C(C(=C1)OC)OC)OC)=O)C(=O)O)C | C22H21NO6S
